US07947694B2
A mixture of 2-amino-indane hydrochloride (10 g, 58.9 mmol) and EtOAc was treated with 2 M aqueous Na2CO3 solution. The organic layer was separated and washed (2 M aqueous Na2CO3 solution); the aqueous layers were extracted with EtOAc. The combined organic phases were washed (saturated aqueous NaCl solution), dried (MgSO4), filtered, and concentrated to give 2-amino-indane (7.8 g), which was dissolved in dry THF (80 ml). 4-Nitrobenzaldehyde (9.74 g, 64.4 mmol) and acetic acid (3.35 ml, 58.6 mmol) were added. The mixture was stirred at room temperature for 1 hour. NaBH(OAc)3 (37.2 g, 176 mmol) was added. The resulting yellow suspension was stirred for 15 hours (over night). The mixture was poured onto EtOAc and 2M aqueous Na2CO3 solution (gas evolution). The organic phase was separated, washed (2M aqueous Na2CO3 solution, saturated. aqueous NaCl solution), dried (Na2SO4), filtered and concentrated. Flash chromatography (hexane/EtOAc 7:3) afforded 14.76 g (94%) of intermediate 15.

reactant | 2-amino-indane hydrochloride | 58.9 mmol, 10 g | Cl.NC1CC2=CC=CC=C2C1
reactant | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-amino-indane | 7.8 g | NC1CC2=CC=CC=C2C1 | C9H11N
